US05780642
3,4'-Dichloropropiophenone was treated with potassium phthalimide, the product treated with ethylene glycol and then this product cleaved with hydrazine hydrate following the methods described in J. Org. Chem. 1972, 221-225, to give 2-[2-(4-chlorophenyl)-1,3-dioxolan-2-yl]ethylamine.

reactant | 3,4'-Dichloropropiophenone | ClCCC(=O)C1=CC=C(C=C1)Cl | C9H8Cl2O
reactant | potassium phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | hydrazine hydrate | O.NN
solvent | ethylene glycol | C(CO)O | C2H6O2
product | 2-[2-(4-chlorophenyl)-1,3-dioxolan-2-yl]ethylamine | ClC1=CC=C(C=C1)C1(OCCO1)CCN | C11H14ClNO2
